US08420690B2
a) hydroxy(1-naphthalenyl)acetonitrile
To a solution of potassium cyanide in ether (100 mL) at 0° C. was added dropwise a mixture of 1-naphthalenecarboxaldehyde (1.56 g, 10 mmol) and acetic acid (1.41 g, 23.5 mmol) in ether (10 mL). The resulting mixture was warmed to 25° C. for 20 h, the precipitate was filtered and the filtrate was concentrated affording the title compound as a clear oil (1.67 g, 9.14 mmol, 91%): LCMS (ES) m/z 184 (M+H)+.

reactant | potassium cyanide | [C-]#N.[K+]
reactant | 1-naphthalenecarboxaldehyde | 10 mmol, 1.56 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | acetic acid | 23.5 mmol, 1.41 g | C(C)(=O)O | C2H4O2
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | hydroxy(1-naphthalenyl)acetonitrile | 9.14 mmol, 1.67 g, 91% | OC(C#N)C1=CC=CC2=CC=CC=C12 | C12H9NO
